* Schematics Netlist *



V_V1         $N_0001 0 12V
R_R1         $N_0002 0  20k  
V_V3         0 $N_0003 12V
X_U1A         $N_0004 $N_0002 $N_0001 $N_0003 $N_0002 LM324
V_V2         $N_0004 0 DC 0V AC 1V 
R_R2         $N_0005 0  20k  
X_U2A         $N_0004 $N_0005 $N_0001 $N_0003 $N_0005 LM324/NS
