* Schematics Netlist *



V_V9         $N_0001 0 -12V
V_V8         $N_0002 0 12V
X_U3A         $N_0004 0 $N_0002 $N_0001 $N_0003 LF156/LT
V_V14         $N_0004 $N_0005 -2.00488m
R_R1         $N_0003 0  1000k  
V_V28         $N_0006 0 -12V
V_V29         $N_0007 0 12V
R_R2         $N_0008 0  1000k  
X_U7A         $N_0009 0 $N_0007 $N_0006 $N_0008 MyTestOP
V_V15         $N_0005 0 DC 0V AC 1 
V_V31         $N_0009 0 DC 0V AC 1 
