* Schematics Netlist *



X_U4A         $N_0001 Z3 $N_0002 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         Z3 $N_0001 $N_0003 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0001 $N_0004 $N_0005 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         Z3 $N_0006 $N_0007 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1         $N_0008 $D_HI $N_0010 $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI Z0
+  $N_0001 $G_DPWR PWR 7472 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8         $N_0008 $D_HI $N_0010 $N_0006 $N_0004 $N_0001 $N_0004 $D_HI $D_HI
+  Z3 $N_0011 $G_DPWR PWR 7472 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         $N_0008 $D_HI $N_0010 $N_0001 $D_HI $D_HI $N_0003 $N_0005 $D_HI Z1
+  $N_0006 $G_DPWR PWR 7472 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7         $N_0008 $D_HI $N_0010 $N_0002 $N_0007 $D_HI $N_0006 $N_0001 $D_HI
+  Z2 $N_0004 $G_DPWR PWR 7472 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0008 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 200ns 1  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0010 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=60ns 
+ 0s 0  
+ REPEAT FOREVER  
+ 1c 1  
+ +1c 0 
+ ENDREPEAT  
