* Schematics Netlist *



D_D1         0 $N_0001 D1N750 
D_D2         0 $N_0002 D1N750 
I_I1         $N_0002 0 DC 3mA  
V_V1         $N_0003 0 DC 10V  
V_V2         $N_0004 0 DC 10V  
R_R2         $N_0004 $N_0002  {Rval}  
R_R1         $N_0003 $N_0001  {Rval}  
