* Schematics Netlist *



D_D2         0 $N_0001 D1N750 
I_I1         $N_0001 0 DC 3mA  
V_V2         $N_0002 0 DC 10V  
R_R2         $N_0002 $N_0001  {Rval}  
