* Schematics Netlist *



X_U2         $N_0002 $N_0003 VCC 0 $N_0001 0 LM111
R_R3         $N_0001 $G_DPWR  1k  
X_U1A         $N_0006 $N_0007 VCC 0 $N_0002 LM324
X_U3A         $D_HI $N_0001 $N_0008 $D_HI $N_0011 $N_0012 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
E_E1         $N_0013 0 TABLE { V($N_0011, 0) } 
+ ( (0.4,0) (2.4,15) )
V_V2         VCC 0 15V
R_R2         0 $N_0003  10k  
R_R1         $N_0003 VCC  10k  
R_R4         $N_0013 $N_0007  220k  
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND $N_0008 IO_STM IO_LEVEL=0 
+ 0 0
+ +10uS 1
+REPEAT FOREVER
+ +10uS 0
+  +10uS 1
+ ENDREPEAT
C_C1         $N_0002 $N_0007  1.5n  
X_U14A         Qa0 Qa1 Qa2 Qa3 $N_0014 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18A         $N_0015 $N_0016 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21A         $N_0015 $N_0014 $N_0017 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U22A         $N_0017 $N_0018 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U23A         $N_0018 $N_0019 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17         $N_0020 Qb0 $N_0019 $N_0019 Qb0 Qb1 Qb2 Qb3 $G_DPWR $G_DGND 74293
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         $N_0021 $N_0015 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12         $N_0021 Qa0 $D_LO $D_LO Qa0 Qa1 Qa2 Qa3 $G_DPWR $G_DGND 74293
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24A         $N_0008 $N_0024 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U25A         $N_0024 $N_0021 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0012 $N_0008 $N_0020 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20A         $N_0016 $N_0014 $N_0025 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13         $N_0025 $D_HI $D_LO $D_LO Qb0 Qb1 Qb2 Qb3 Q0 Q1 Q2 Q3 $G_DPWR
+  $G_DGND 74176 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         $N_0006 0 2V
