* Schematics Netlist *



X_U2         $N_0001 Qa0 $D_LO $D_LO Qa0 Qa1 Qa2 Qa3 $G_DPWR $G_DGND 74293
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND $N_0001 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U4         $N_0004 $D_HI $N_0006 $N_0007 Qb0 Qb1 Qb2 Qb3 Q0 Q1 Q2 Q3 $G_DPWR
+  $G_DGND 74176 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         Qa0 Qa1 Qa2 Qa3 $N_0008 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND $N_0009 IO_STM IO_LEVEL=0 
+ 0 0
+ +1uS 1
+REPEAT FOREVER
+ +1uS 0
+  +1uS 1
+ ENDREPEAT
X_U15A         $N_0009 $N_0010 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16A         $N_0010 $N_0011 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         $N_0011 Qb0 $N_0012 $N_0012 Qb0 Qb1 Qb2 Qb3 $G_DPWR $G_DGND 74293
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         $N_0013 $N_0014 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         $N_0001 $N_0013 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17A         $N_0014 $N_0008 $N_0004 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         $N_0013 $N_0008 $N_0015 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18A         $N_0015 $N_0016 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         $N_0016 $N_0012 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
