* Schematics Netlist *



R_R2         $N_0002 $N_0001  2  
R_R3         0 $N_0003  2  
V_V1         $N_0004 0 DC=5
I_I1         $N_0001 $N_0003 DC 1  
L_L1         $N_0002 0  10uH  
R_R1         $N_0004 $N_0002  5  
