* Schematics Netlist *



R_R1         0 $N_0001  2  
V_V1         $N_0002 0 DC=5
I_I1         $N_0003 $N_0001 DC 1  
L_L1         $N_0004 0  10uH  
R_R2         $N_0002 $N_0004  5  
R_R3         $N_0005 $N_0003  2  
C_C1         $N_0004 $N_0005  1n  
