* Schematics Netlist *



V_V1         $N_0001 0 5
R_R1         $N_0001 $N_0002  5  
R_R2         $N_0004 $N_0003  2  
C_C1         $N_0002 $N_0004  1n  
R_R3         $N_0004 0  2  
L_L1         $N_0002 0  10uH  
I_I1         $N_0003 0 DC 1  
